US06716851B2
4-(4-Chloro-2,5-dimethoxyanilino)-(2-pyrazinyl)-6-(trifluoromethyl)pyrimidine hydrochloride
The title compound was prepared from a mixture of 4-chloro-(2-pyrazinyl)-6-(trifluoromethyl)pyrimidine (50 mg, 0.191 mmol) and 4-chloro-2,5-dimethoxyaniline (54 mg, 0.287 mmol) similar to Example 117 and isolated as a yellow solid (67 mg, 85%). 1H NMR (CDCl3): 9.77 (d, J=1.5 Hz, 1H), 8.79-8.78 (m, 1H), 8.76 (d, J=2.4 Hz, 1H), 8.50 (bs, 1H), 7.70 (s, 1H), 7.05 (s, 1H), 7.04 (s, 1H), 4.06 (s, 3H), 3.93 (s, 3H).

reactant | 4-chloro-(2-pyrazinyl)-6-(trifluoromethyl)pyrimidine | 0.191 mmol, 50 mg | ClC1=NC(=NC(=C1)C(F)(F)F)C1=NC=CN=C1 | C9H4ClF3N4
reactant | 4-chloro-2,5-dimethoxyaniline | 0.287 mmol, 54 mg | ClC1=CC(=C(N)C=C1OC)OC | C8H10ClNO2
product | 4-(4-Chloro-2,5-dimethoxyanilino)-(2-pyrazinyl)-6-(trifluoromethyl)pyrimidine hydrochloride | Cl.ClC1=CC(=C(NC2=NC(=NC(=C2)C(F)(F)F)C2=NC=CN=C2)C=C1OC)OC | InChI=1S/C17H13ClF3N5O2.ClH/c1-27-12-6-10(13(28-2)5-9(12)18)24-15-7-14(17(19,20)21)25-16(26-15)11-8-22-3-4-23-11;/h3-8H,1-2H3,(H,24,25,26);1H
